US08455475B2
(R)-Methyl 8-amino-3-fluoro-5,6,7,8-tetrahydronaphthalene-2-carboxylate hydrochloride (A-14)
Step-1: (R)-8-Amino-3-fluoro-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid hydrochloride (commercially obtainable from NetChem Company (order no. 573545)) (2.035 mmol, 1 eq.) was added to a solution of HCl in methanol (1.25 M, 15 eq.) and the resulting mixture was heated to reflux for 16 h. The solvent was concentrated in vacuo, and the residue was dissolved in acetone (5 ml) and diethyl ether (30 ml) was added. The white solid was collected by filtration, washed with diethyl ether and dried in vacuo. Yield: 95%

reactant | (R)-8-Amino-3-fluoro-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid hydrochloride | Cl.N[C@@H]1CCCC=2C=C(C(=CC12)C(=O)O)F
reactant | HCl | Cl | ClH
reactant | methanol | 1.25 M, 15 eq. | CO | CH4O
product | (R)-Methyl 8-amino-3-fluoro-5,6,7,8-tetrahydronaphthalene-2-carboxylate hydrochloride | Yield: 95% | Cl.N[C@@H]1CCCC=2C=C(C(=CC12)C(=O)OC)F | InChI=1S/C12H14FNO2.ClH/c1-16-12(15)9-6-8-7(5-10(9)13)3-2-4-11(8)14;/h5-6,11H,2-4,14H2,1H3;1H/t11-;/m1./s1
